* SCT3030AR
* SiC NMOSFET with driver source model
* 650V 70A 30mOhm
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2019/07/09
******************D G S DS
.SUBCKT SCT3030AR 1 2 3 4
.PARAM T0=25
.FUNC R1(I)     {17.94m*I*EXP((TEMP-T0)/196.8)+1.914u*I*ABS(I)**1.526*EXP((TEMP-T0)/950.4)}
.FUNC R2(I)     {I*(1.0*(1+TANH(I))/2+5.8*(1-TANH(I))/2)}
.FUNC V1(I)     {195.0m*ASINH(I/0.1194)*EXP((TEMP-T0)/-344.4)+
+                718.5m*ASINH(I/4.314)*EXP((TEMP-T0)/-1992)+19.42m*I*EXP((TEMP-T0)/390.9)}
.FUNC V2(V)     {2.284p*V**15.14*EXP((TEMP-T0)/33.20*EXP((TEMP-T0)/-1781))}
.FUNC V3(V)     {884.0*SINH(V/884.0)*EXP((TEMP-T0)/4418)}
.FUNC I1(V,W)   {V3(V)*(1+2.227*(TANH((V3(V)-26.11)/42.99)+1)*EXP((TEMP-T0)/-179.1)/10)*
+                W/(ABS(W)+2.227*(TANH((V3(V)-26.11)/42.99)+1)*EXP((TEMP-T0)/-179.1))}
.FUNC C1(U,V,W) {(582.4*V+1473*(1-W/1.117)**-0.4415)*(0.1835*TANH((U+7.522)/3.213)+0.8165)}
V1  1 11 0
E1 11 12 VALUE={R1(I(V1))}
V2  2 21 0
E2 21 22 VALUE={R2(I(V2))}
L1  3 32 5.0n
R2  3 32 10
R5  4 32 1m
E6 41  0 VALUE={MIN(MAX(V(22,32),0),22)}
V6 41 42 0
E7 42 43 VALUE={V1(I(V6))}
G6 43  0 VALUE={MIN(MAX(V2(MAX(V(43),0)),-500),500)}
C6 43  0 1p
R6 43  0 1T
G1 12 32 VALUE={MIN(MAX(I1(MIN(MAX(I(V6),0),2k),V(12,32)),-300),300)}
C7 12 32 1p
R3 12 32 1T
V3 22 23 0
C1 23 12 1p
G2 22 12 VALUE={I(V3)*C1(V(22,12),MIN(MAX(V(22,12),0),0.803),MIN(V(22,12),0))}
C2 22 32 1.490n
R4 22  3 1G
********* ********* ********* ********* ********* ********* ********* ********* ********* ********* *********
.FUNC R11(I)   {90.84m*ASINH(I/0.4303)*EXP((TEMP-T0)/268.3)+34.43m*I*EXP((TEMP-T0)/742.5)}
.FUNC I11(V)   {38.98n*(EXP(V/0.09615/EXP((TEMP-T0)/-277.8))-1)*EXP((TEMP-T0)/-52.29*EXP((TEMP-T0)/800.0))-
+               1u*TANH(-V/0.1)*EXP((TEMP-T0)/180.3)-231.9E-21*(EXP(-V/25)-1)*EXP((TEMP-T0)/-200)}
.FUNC C11(V,W) {722.2*(V-1.083)+1110*(1-W/2.167)**-0.4987}
V11 32 51 0
E11 51 52 VALUE={R11(I(V11))}
V12 52 53 0
C11 53  1 1p
G11 52  1 VALUE={MIN(MAX(I11(V(52,1)),-300),300)+I(V12)*C11(MAX(V(52,1),1.083),MIN(V(52,1),1.083))}
R11 52  1 1T
.ENDS SCT3030AR